US06800651B2
N-(3-(2-Methoxyphenylsulfinyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
N-(3-(2-Methoxyphenylsulfinyl)phenyl)pyrid-3-ylmethylamine (159 mg, 0.44 mmol) was taken up in 1,2-dichloroethane (2.0 ml) and anhydrous pyridine (1.0 ml) and cooled under nitrogen to 0° C. Ethanesulfonyl chloride (103 mg, 0.80 mmol) is added dropwise via syringe and the reaction allowed to stir at 0° C. for thirty minutes. The ice bath is removed and the mixture stirred 88 hours at room temperature, as a matter of convenience. Solid potassium carbonate was added, the reaction stirred an additional hour, and then filtered and concentrated to a dark oil. Radial silica gel chromatography (2 mm Chromatotron® plate, eluting with 20/1 methylene chloride/methanol) afforded the title compound (16 mg, 8%). 1H NMR(400 MHz): 1.39(3H,t,J=7.3), 3.04(2H,q,J=7.3), 3.78(3H,s), 4.88(2H,s), 6.86(1H,d,J=7.8), 7.11-7.21(2H,m), 7.25-7.30(1H,m), 7.35(1H,t,J=7.8), 7.42(1H,dt,J=7.3, 2.0), 7.56-7.62(2H,m), 7.68(1H,m), 7.81(1H,dd,J=7.3, 1.5), 8.31(1H,br s), 8.46(1H,br s); MS(HRMS)m/z 431.1116([M+H]+calcd for C21H23N2O4S 431.1099).

reactant | N-(3-(2-Methoxyphenylsulfinyl)phenyl)pyrid-3-ylmethylamine | 0.44 mmol, 159 mg | COC1=C(C=CC=C1)S(=O)C=1C=C(C=CC1)NCC=1C=NC=CC1 | C19H18N2O2S
reactant | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
reactant | Ethanesulfonyl chloride | 0.80 mmol, 103 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | 1,2-dichloroethane | 2.0 ml | ClCCCl | C2H4Cl2
product | N-(3-(2-Methoxyphenylsulfinyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | 16 mg, 8% | COC1=C(C=CC=C1)S(=O)C=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C21H22N2O4S2
